US04565875
Under a dry nitrogen atmosphere a solution of 5-methyl-1H-imidazole-4-carboxylic acid chloride (1.5 g, 0.01 mole) and 3-chloroaniline (1.3 g, 0.01 mole) in 25 ml of pyridine was stirred at ambient temperature for two days. The reaction mixture was then concentrated under reduced pressure, and the residue was slurried with aqueous saturated sodium bicarbonate. The resultant solid was collected by filtration, washed with water, and recrystallized, yielding N-(3-chlorophenyl)-5-methyl-1H-imidazole-4-carboxamide; (0.5 g; mp, 199°-202°).

reactant | 5-methyl-1H-imidazole-4-carboxylic acid chloride | 0.01 mole, 1.5 g | CC1=C(N=CN1)C(=O)Cl | C5H5ClN2O
reactant | 3-chloroaniline | 0.01 mole, 1.3 g | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-chlorophenyl)-5-methyl-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1)NC(=O)C=1N=CNC1C | C11H10ClN3O
